US04822375
Preparation of the compound No. 24 of Table I [5,6-Bis(trimethylsilyloxy)-2-(trimethylsilyloxycarbonyl)indole]
5,6-Dihydroxy-2-carboxyindole (0.2 g; 0.00103 mole) and N,O-bis(trimethylsilyl)acetamide (2.5 g; 0.0124 mole) are brought to 60° C. for 1 hour with stirring. The solution is poured into 50 g of ice and the precipitate filtered off and washed with water. It is taken up in dichloromethane and dried over sodium sulphate. After evaporation under vacuum, the derivative 24 is obtained (0.35 g; 83% yield). MS (70 eV) for C18H31NO4Si3 : 409 (M+, 12.5), 337(41), 319(14), 232(30), 75(75) and 73(100).

reactant | 5,6-Dihydroxy-2-carboxyindole | 0.00103 mole, 0.2 g | OC=1C=C2C=C(NC2=CC1O)C(=O)O | C9H7NO4
reactant | N,O-bis(trimethylsilyl)acetamide | 0.0124 mole, 2.5 g | C/C(=N\[Si](C)(C)C)/O[Si](C)(C)C | C8H21NOSi2
product | 5,6-Bis(trimethylsilyloxy)-2-(trimethylsilyloxycarbonyl)indole | 83% yield | C[Si](OC=1C=C2C=C(NC2=CC1O[Si](C)(C)C)C(=O)O[Si](C)(C)C)(C)C | C18H31NO4Si3
